US07256198B2
Step 4: 8-Methoxy-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To cold concentrated H2SO4 (4 mL) was added 8′-methoxy-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] (0.204 g, 0.744 mmol) portion-wise over a period of 15 minutes with cooling in an ice bath. After stirring for 35 min., the reaction was poured onto ice and basified with concentrated NH4OH keeping the reaction cold with ice. The reaction mixture was extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, and filtered and concentrated. The crude product was purified on Biotage KP silica gel eluting with CH2Cl2/CH3OH/NH4OH (98.5/1/0.5) to give the title compound as a bright red solid. Anal: Calc'd for C12H12N2O2 0.1H2O: C, 66.10; H, 5.64; N, 12.85. Found: C, 65.81; H, 5.28; N, 12.78. NMR (300 Mz, DMSO-d6): consistent. MS: (APCI+) m/z 217[M+H]. m.p.: 152° C.

reactant | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
reactant | 8′-methoxy-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] | 0.744 mmol, 0.204 g | COC1=CC=2C3(C=4N(C2C=C1)CCCN4)OCCCO3 | C15H18N2O3
reactant | NH4OH | [NH4+].[OH-]
product | 8-Methoxy-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | COC1=CC=2C(C=3N(C2C=C1)CCCN3)=O | C12H12N2O2
